US09120777B2
H) 1-(1-((5-Cyclopropyl-6-(4-fluorophenyl)-2-isopropoxypyridin-3-yl)methyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylic acid
A mixture of methyl 1-(1-((5-cyclopropyl-6-(4-fluorophenyl)-2-isopropoxypyridin-3-yl)methyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylate (189 mg), a 1 M aqueous sodium hydroxide solution (1.5 mL), and ethanol (3 mL) was stirred at 70 C for 1 hour. The obtained reaction mixture was neutralized with 1 M hydrochloric acid and stirred overnight at room temperature. The resulting solid was collected by filtration and recrystallized (ethanol/ethyl acetate) to obtain the title compound (91 mg).

reactant | methyl 1-(1-((5-cyclopropyl-6-(4-fluorophenyl)-2-isopropoxypyridin-3-yl)methyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylate | 189 mg | C1(CC1)C=1C=C(C(=NC1C1=CC=C(C=C1)F)OC(C)C)CN1CCC(CC1)N1C(C=C(C=C1)C(=O)OC)=O | C30H34FN3O4
reactant | sodium hydroxide | 1 M, 1.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-(1-((5-Cyclopropyl-6-(4-fluorophenyl)-2-isopropoxypyridin-3-yl)methyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 91 mg | C1(CC1)C=1C=C(C(=NC1C1=CC=C(C=C1)F)OC(C)C)CN1CCC(CC1)N1C(C=C(C=C1)C(=O)O)=O | C29H32FN3O4
